US07820821B2
Concentrated HCl (2 mL) was added to a mixture of 1-(3-amino-4-methylphenyl)ethanone (8.4 mmol) and NaBF4 (1.2 g, 11 mmol) in H2O (10 mL) and the solution was cooled to 0° C. A solution of NaNO2 (0.58 g, 8.4 mmol) in H2O (1.5 mL) was added dropwise and the mixture was stirred at 0° C. for 30 min. The solid that formed was collected by filtration and washed with H2O (5 mL) followed by Et2O (5 mL) and dried under a reduced pressure. CH2Cl2 (20 mL), KOAc (0.91 g, 9.3 mmol) and 18-crown-6 (50 mg, 0.2 mmol) was added to the solid and the mixture was stirred at room temperature for 4 h. H2O (20 mL) was added and the layers were separated. The organic layer was dried (MgSO4) and the solvent removed at reduced pressure to afford 1-(1H-indazol-6-yl)ethanone (0.52 g).

reactant | HCl | 2 mL | Cl | ClH
reactant | 1-(3-amino-4-methylphenyl)ethanone | 8.4 mmol | NC=1C=C(C=CC1C)C(C)=O | C9H11NO
reactant | NaNO2 | 8.4 mmol, 0.58 g | N(=O)[O-].[Na+]
reactant | KOAc | 9.3 mmol, 0.91 g | CC(=O)[O-].[K+]
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 1.5 mL | O | H2O
catalyst | 18-crown-6 | 0.2 mmol, 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(1H-indazol-6-yl)ethanone | 0.52 g | N1N=CC2=CC=C(C=C12)C(C)=O | C9H8N2O
